US08486970B2
To a mixed liquid of 2.00 g of (1RS,2SR)-2-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid and 40 ml of dichloromethane were added 1.41 ml of 2-(trimethylsilyl)ethanol, 0.40 g of DMAP, and 2.21 g of WSC in this order, followed by stirring at room temperature for 60 hours. After evaporating the solvent, ethyl acetate was added thereto, followed by washing with water, a 5% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution in this order. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated to obtain 2.82 g of 2-(trimethylsilyl)ethyl(1RS,2SR)-2-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylate as a colorless oily substance.

reactant | (1RS,2SR)-2-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid | 2.00 g | C(C)(C)(C)OC(=O)NC1C(CCCC1)C(=O)O | C12H21NO4
reactant | 2-(trimethylsilyl)ethanol | 1.41 ml | C[Si](CCO)(C)C | C5H14OSi
reactant | WSC | 2.21 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 0.40 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(trimethylsilyl)ethyl(1RS,2SR)-2-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylate | 2.82 g | C(C)(C)(C)OC(=O)NC1C(CCCC1)C(=O)OCC[Si](C)(C)C | C17H33NO4Si
